US07501412B2
Sodium hydride (purity 60%, 2.0 g) was suspended in dimethylformamide (100 mL), and trimethylsulfoxonium iodide (11 g) was added, and the mixture was stirred at room temperature for 1 hr. Then, methyl 2-isonicotinoylbenzoate (11 g) was added, and the mixture was further stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the precipitated crystals were collected by filtration to give 4-(pyridin-4-yl)isocoumarin (4.9 g).

reactant | Sodium hydride | 2.0 g | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 11 g | [I-].C[S+](=O)(C)C
reactant | methyl 2-isonicotinoylbenzoate | 11 g | C(C1=CC=NC=C1)(=O)C1=C(C(=O)OC)C=CC=C1 | C14H11NO3
reactant | Water | O | H2O
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-(pyridin-4-yl)isocoumarin | 4.9 g | N1=CC=C(C=C1)C1=COC(=O)C2=CC=CC=C12 | C14H9NO2
